US05552397
A solution of 3-azido-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one [prepared as described by Watthey et al., J. Med. Chem., 28, p. 1511-15156 (1985)] in tetrahydrofuran/tert-butanol was cooled to 0° C. and treated with ethyl acrylate and 1N tert-butanol, potassium salt/tetrahydrofuran according to the procedure of Example 40 part (a) affording 3-azido-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepine-1-propanoic acid, ethyl ester as a syrup. TLC (ethyl ether:hexane, 1:1) Rf =0.45.

reactant | 3-azido-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC=C2)=O | C10H10N4O
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | tert-butanol | 1N | C(C)(C)(C)O | C4H10O
reactant | potassium | [K] | K
solvent | tetrahydrofuran tert-butanol | O1CCCC1.C(C)(C)(C)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-azido-2,3,4,5-tetrahydro-2-oxo-1H-1-benzazepine-1-propanoic acid, ethyl ester | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC=C2)CCC(=O)OCC)=O | C15H18N4O3
